US04719208
1,2,3,4,5,6-hexahydro-3-dimethylaminoethyl-5-hydroxymethylazepino[4,5-b]indole
A solution of 7 g (0.0324 mol) of 5-hydroxymethylazepino[4,5-b]indole, of 10.04 g (0.0777 mol) of diisopropylethylamine, and of 5.6 g (0.0388 mol) of 1-chloro-2-dimethylaminoethane hydrochloride in 150 ml of chloroform is heated under reflux for 15 hours. The reaction mixture is then drowned in water and alkalified with a saturated aqueous solution of potassium carbonate. The organic phase is separated off and the aqueous phase is again extracted twice with 100 ml portions of chloroform. The organic phases are combined, washed with water, dried over magnesium sulphate, filtered and evaporated to dryness under vacuum. The residue is crystallized from ethyl acetate and yields 8.1 g of product.

reactant | 5-hydroxymethylazepino[4,5-b]indole | 0.0324 mol, 7 g | OCC=1C=NC=CC=2C1N=C1C=CC=CC21 | C13H10N2O
reactant | diisopropylethylamine | 0.0777 mol, 10.04 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-chloro-2-dimethylaminoethane hydrochloride | 0.0388 mol, 5.6 g | Cl.ClCCN(C)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1,2,3,4,5,6-hexahydro-3-dimethylaminoethyl-5-hydroxymethylazepino[4,5-b]indole | 8.1 g, Yield: 87% | CN(C)CCN1CC(C=2NC=3C=CC=CC3C2CC1)CO | C17H25N3O
